US05827881
A! At 0° C., 3-hydroxymethyl-piperidine (20 g, 173 mmoles) was slowly added to formic acid (63 ml, 1.66 moles) then a 40% solution of formaldehyde was added (62.4 ml, 833 mmoles). The mixture was refluxed for 5 hours, then the solvent was evaporated and the residue taken up in little water, brought to basic pH with 32% sodium hydroxide and extracted with ethyl ether. The organic phase was anhydrified over sodium sulfate and evaporated. The resultant crude was purified by distillation and provided 17 g (yield: 76%) of N-methyl-3-hydroxymethylpiperidine (b.p.--85°-86° C./1 mmHg).

reactant | 3-hydroxymethyl-piperidine | 173 mmoles, 20 g | OCC1CNCCC1 | C6H13NO
reactant | formic acid | 1.66 moles, 63 ml | C(=O)O | CH2O2
reactant | formaldehyde | C=O | CH2O
product | N-methyl-3-hydroxymethylpiperidine | 17 g, yield: 76% | CN1CC(CCC1)CO | C7H15NO
